US06248766B1
[(2-Phenyl-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic Acid
Using ethyl[(6-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate and thiobenzamide, the procedure of Example 52 was otherwise repeated to synthesize the title compound. Yield 27%. Amorphous solid.

reactant | ethyl[(6-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate | C(C)OC(COC1=CC=CC=2C(C(CCC12)Br)=O)=O | C14H15BrO4
reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
product | [(2-Phenyl-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic Acid | Yield 27% | C1(=CC=CC=C1)C=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)O | C19H15NO3S
